US09359367B2
To a solution of (S)-ethyl 6-(8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxamido)spiro[2.5]oct-5-ene-5-carboxylate. (1.5 g, 11.50 mmol) in ethanol (25 ml) was added 1 N hydrochloric acid (7.5 ml) in portion wise manner at 0° C. and the reaction was allowed to stir at 25° C. for overnight. Organic solvent was removed under reduced pressure; the residue was diluted with dichloromethane (50 ml) and water (25 ml). The organic mass was extracted using dichloromethane (3×50 ml). Combined organic layer was dried over sodium sulfate and concentrated under reduced pressure to obtain a crude compound, which was purified by column chromatography over silica gel using ethyl acetate in hexane as eluents to obtain (S)-ethyl 6-(3-oxocyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate. (1 g, 85%).

reactant | (S)-ethyl 6-(8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxamido)spiro[2.5]oct-5-ene-5-carboxylate | CC1(COC2(CC[C@@H](C2)C(=O)NC2=C(CC3(CC3)CC2)C(=O)OCC)OC1)C | C22H33NO5
reactant | hydrochloric acid | 1 N, 7.5 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (S)-ethyl 6-(3-oxocyclopentanecarboxamido)spiro[2.5]oct-5-ene-5-carboxylate | O=C1C[C@H](CC1)C(=O)NC1=C(CC2(CC2)CC1)C(=O)OCC | C17H23NO4
